US06255285B1
To a mixture of 0.67 g (4.05 mmol) of β-aminohydrocinnamic acid, 0.45 g (4.26 mmol) of sodium carbonate, 2.5 ml of 2 N aqueous NaOH, 8 ml of water and 8 ml of dioxane, 0.93 g (4.26 mmol) of di-tert-butyl dicarbonate was added and the resulting mixture was stirred at room temperature for 3 hours. Under cooling with ice, the reaction mixture was rendered acidic with conc. hydrochloric acid, extracted with methylene chloride, dried with anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to give 1.14 g of N-Boc-β-aminohydrocinnamic acid.

reactant | β-aminohydrocinnamic acid | 4.05 mmol, 0.67 g | NC(CC(=O)O)C1=CC=CC=C1 | C9H11NO2
reactant | sodium carbonate | 4.26 mmol, 0.45 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaOH | 2 N, 2.5 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 4.26 mmol, 0.93 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | water | 8 ml | O | H2O
product | N-Boc-β-aminohydrocinnamic acid | 1.14 g | C(=O)(OC(C)(C)C)NC(CC(=O)O)C1=CC=CC=C1 | C14H19NO4
